US07585875B2
Synthesis of 1-(2-(4-fluorophenyl)-6-(trifluoromethyl)pyrazolo[1,5-a]pyridin-3-yl)-2-methylpropan-1-one
1-(4-fluorophenyl)-2-(5-(trifluoromethyl)pyridin-2-yl)ethanone. To a solution of 4-fluoroacetophenone (13.8 g, 100 mmol) and 2-chloro-5-trifluoromethylpyridine (20.0 g, 110 mmol) in 400 ml of anhydrous THF was added NaH (5.56 g, 220 mmol) (washed with pentane prior to use) in several portions. The reaction was stirred under argon at room temperature for 3 days. The reaction was carefully quenched with H2O (300 ml), followed by addition of diethyl ether (200 ml). The organic layer was separated and extracted with 6N HCl (2×300 ml). The aqueous extracts were cooled to 0° C. and 6N NaOH was added dropwise to adjust the pH of the solution to pH 11-12. The mixture was then extracted with diethyl ether (4×150 ml) and the combined organic layers were then dried over MgSO4. Filtration and concentration furnished 22.4 g (79%) of the title compound as a tautomeric mixture.

reactant | 1-(4-fluorophenyl)-2-(5-(trifluoromethyl)pyridin-2-yl)ethanone | FC1=CC=C(C=C1)C(CC1=NC=C(C=C1)C(F)(F)F)=O | C14H9F4NO
reactant | 4-fluoroacetophenone | 100 mmol, 13.8 g | CC(=O)C1=CC=C(C=C1)F | C8H7FO
reactant | 2-chloro-5-trifluoromethylpyridine | 110 mmol, 20.0 g | ClC1=NC=C(C=C1)C(F)(F)F | C6H3ClF3N
reactant | NaH | 220 mmol, 5.56 g | [H-].[Na+]
solvent | THF | 400 ml | C1CCOC1 | C4H8O
product | 1-(2-(4-fluorophenyl)-6-(trifluoromethyl)pyrazolo[1,5-a]pyridin-3-yl)-2-methylpropan-1-one | 22.4 g, 79% | FC1=CC=C(C=C1)C1=NN2C(C=CC(=C2)C(F)(F)F)=C1C(C(C)C)=O | C18H14F4N2O
